US08420655B2
5-[1-tert-Butyl-2-(4-chloro-2-1,2,4-triazol-1-yl-phenyl)-1H-benzimidazol-5-yl]-pyrimidin-2-ylamine
The 4-(2-amino-pyrimidin-5-yl)-N1-tert-butyl-benzene-1,2-diamine (185 mg, 0.72 mmol) and 4-chloro-2-1,2,4-triazol-1-yl-benzaldehyde (150 mg, 0.72 mmol) are combined in methanol (5 mL) and warmed to 65° C. After 18 hours, catalytic TsOH is added and heating is continued at 65° C. for 48 hours. The reaction mixture is cooled to room temperature and concentrated. The residue is purified via flash chromatography (12 g silica gel, 0-10% MeOH/CH2Cl2). Product-containing fractions are combined and concentrated. The residue is diluted with acetonitrile and the resulting solid product is collected via filtration (55 mg, 17%). LCMS (ESMS): m/z 445.20 (M++1)

reactant | 4-(2-amino-pyrimidin-5-yl)-N1-tert-butyl-benzene-1,2-diamine | 0.72 mmol, 185 mg | NC1=NC=C(C=N1)C=1C=C(C(=CC1)NC(C)(C)C)N | C14H19N5
reactant | 4-chloro-2-1,2,4-triazol-1-yl-benzaldehyde | 0.72 mmol, 150 mg | ClC1=CC(=C(C=O)C=C1)N1N=CN=C1 | C9H6ClN3O
reactant | TsOH | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
solvent | methanol | 5 mL | CO | CH4O
product | 5-[1-tert-Butyl-2-(4-chloro-2-1,2,4-triazol-1-yl-phenyl)-1H-benzimidazol-5-yl]-pyrimidin-2-ylamine | C(C)(C)(C)N1C(=NC2=C1C=CC(=C2)C=2C=NC(=NC2)N)C2=C(C=C(C=C2)Cl)N2N=CN=C2 | C23H21ClN8
